US05164100
4,4'-bis(carbomethoxy)stilbene:
To a 1 L 3-neck round bottom flask fitted with a glass stopper, rubber septum, and reflux condenser fitted with a nitrogen inlet tube, was added 20.0 g (39.77 mmol) (4-carbomethoxy) benzyltriphenylphosphonium bromide; 7.83 g (47.73 mmol) methyl 4-formylbenzoate; and 110 mL 2:1 methanol: toluene. After the starting material dissolved, 10.0 mL (43.75 mmol) 25% sodium methoxide solution in methanol was added dropwise over several minutes. The reaction vessel was heated at reflux for 30 minutes. After cooling to room temperature, the reaction vessel was cooled at 0° C. for several hours. The resulting precipitate was filtered, washed with 2:1 methanol: toluene, and dried in a vacuum oven to afford 5.54 g (72%) of the compound as a 57:43 mixture of cis: trans isomers.

reactant | (4-carbomethoxy) benzyltriphenylphosphonium bromide | 39.77 mmol, 20.0 g | [Br-].C(=O)(OC)C1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | methyl 4-formylbenzoate | 47.73 mmol, 7.83 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | sodium methoxide | 43.75 mmol, 10.0 mL | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 4,4'-bis(carbomethoxy)stilbene | 5.54 g, 72% | C(=O)(OC)C1=CC=C(C=C1)C=CC1=CC=C(C=C1)C(=O)OC | C18H16O4
